US07935702B2
3. 5-Chloro-2-(6-methoxy-3-trifluoromethyl-pyridin-2-yl)-[1,8]naphthyridine
Dissolve 2-amino-4-chloronicotinaldehyde (156 mg, 1.0 mmol) and 1-(6-methoxy-3-trifluoromethyl-pyridin-2-yl)-ethanone (219 mg, 1.0 mmol) in anhydrous THF (5 mL) and cool to −40° C. under a N2 atmosphere. Add in portions t-BuOK (168 mg, 1.5 mmol) to the reaction mixture and stir the mixture at −10° C. for 2 hours. Concentrate the reaction mixture by rotary evaporation, collect the solid by filtration and air-dry to afford the title compound.

reactant | 2-amino-4-chloronicotinaldehyde | 1.0 mmol, 156 mg | NC1=C(C=O)C(=CC=N1)Cl | C6H5ClN2O
reactant | 1-(6-methoxy-3-trifluoromethyl-pyridin-2-yl)-ethanone | 1.0 mmol, 219 mg | COC1=CC=C(C(=N1)C(C)=O)C(F)(F)F | C9H8F3NO2
reactant | t-BuOK | 1.5 mmol, 168 mg | CC(C)(C)[O-].[K+]
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 5-Chloro-2-(6-methoxy-3-trifluoromethyl-pyridin-2-yl)-[1,8]naphthyridine | ClC1=C2C=CC(=NC2=NC=C1)C1=NC(=CC=C1C(F)(F)F)OC | C15H9ClF3N3O
